US07737144B2
1-Propylbarbituric acid (12)
Metallic sodium (2.6 g, 113 mmol) is added to ethanol (60 ml). The mixture is stirred until the sodium has completely finished reacting. Diethyl malonate (116 ml, 105 mmol) and n-propylurea (10 g, 98 mmol) are then added and the mixture is stirred under reflux for 5 h. After conc. HCl (5 ml) and hot water (45 ml) have been added, the mixture is filtered and the filtrate is concentrated in vacuo. Ethanol is added to the residue and the mixture is stirred. The solid is filtered off with suction and dried.

reactant | sodium | 113 mmol, 2.6 g | [Na] | Na
reactant | Diethyl malonate | 105 mmol, 116 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | n-propylurea | 98 mmol, 10 g | C(CC)NC(=O)N | C4H10N2O
reactant | HCl | 5 ml | Cl | ClH
solvent | water | 45 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-Propylbarbituric acid | C(CC)N1C(=O)NC(=O)CC1=O | C7H10N2O3
